US07612114B2
[2-(3-Chloro-6-methoxy-1-methyl-1H-indol-2-yl)-5-methoxyphenyl]diethylamine
To a solution of diethyl [5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenyl]amine (110 mg) in tetrahydrofuran (5 ml) was added N-chlorosuccinimide (50 mg), and the solution was stirred for 1 hour at room temperature. To the reaction solution was added a saturated aqueous solution of sodium bicarbonate, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate-methanol system) to provide the title compound (96 mg).

reactant | diethyl [5-methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenyl]amine | 110 mg | C(C)N(C1=C(C=CC(=C1)OC)C=1N(C2=CC(=CC=C2C1)OC)C)CC | C21H26N2O2
reactant | N-chlorosuccinimide | 50 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [2-(3-Chloro-6-methoxy-1-methyl-1H-indol-2-yl)-5-methoxyphenyl]diethylamine | 96 mg | ClC1=C(N(C2=CC(=CC=C12)OC)C)C1=C(C=C(C=C1)OC)N(CC)CC | C21H25ClN2O2
